US08703793B2
5-(S)-[5-(tert-Butyl-dimethyl-silanyloxy)-4-cyclopentyl-2-(1-methoxy-ethyl)-7,7-dimethyl-5,6,7,8-tetrahydro-quinolin-3-yl]-(4-trifluoromethyl-phenyl)-methanone (Diastereomer 1)
840 mg 5-(S)-[4-Cyclopentyl-5-hydroxy-2-(1-methoxy-ethyl)-7,7-dimethyl-5,6,7,8-tetrahydro-quinolin-3-yl]-(4-trifluoromethyl-phenyl)-methanone (Diastereomer 1) are dissolved in 20 ml toluene, 823 μl 2,6-lutidine are added and the solution is cooled to −18° C. 811 μl Trifluoromethanesulfonic acid-tert.-butyldimethylsilylester are added dropwise and the mixture is stirred for further 20 minutes at −18° C. Then it is warmed to 0° C. and stirred for 1 hour whereafter the mixture is partitioned between saturated aqueous ammonium chloride solution and ethylacetate. The aqueous phase is twice extracted with ethylacetate and the combined organic phases are washed with brine. After drying with magnesium sulphate the solvents are evaporated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethylacetate 95:5 to 80:20).

reactant | 5-(S)-[4-Cyclopentyl-5-hydroxy-2-(1-methoxy-ethyl)-7,7-dimethyl-5,6,7,8-tetrahydro-quinolin-3-yl]-(4-trifluoromethyl-phenyl)-methanone | 840 mg | C1(CCCC1)C1=C(C(=NC=2CC(C[C@@H](C12)O)(C)C)C(C)OC)C=1C(=CC=C(C1)C=O)C(F)(F)F | C27H32F3NO3
reactant | 2,6-lutidine | 823 μl | N1=C(C=CC=C1C)C | C7H9N
reactant | Trifluoromethanesulfonic acid-tert.-butyldimethylsilylester | 811 μl | C(C)(C)(C)[Si](C)(C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(S)-[5-(tert-Butyl-dimethyl-silanyloxy)-4-cyclopentyl-2-(1-methoxy-ethyl)-7,7-dimethyl-5,6,7,8-tetrahydro-quinolin-3-yl]-(4-trifluoromethyl-phenyl)-methanone | C(C)(C)(C)[Si](O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)OC)C=1C(=CC=C(C1)C=O)C(F)(F)F)C1CCCC1)(C)C | C33H46F3NO3Si
